US07354933B2
4 g of triphenylphosphine, 5.3 g of lithium chloride, 14 ml of tetramethyltin and 2.1 g of bis(triphenylphosphine)palladium(II) chloride are added to a solution of 6 g of 4-bromo-7-methoxyquinoline in 100 ml of DMF, under an inert atmosphere of argon at a temperature in the region of 20° C. The reaction medium is heated at a temperature in the region of 120° C. for 16 hours. After cooling, the insoluble material is filtered off. The filtrate is concentrated under reduced pressure. The residue obtained is taken up in 300 ml of EtOAc and 300 ml of water. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. The oil obtained is taken up in 300 ml of EtOAc and 300 ml of water and then acidified with hydrochloric acid to pH 1. The aqueous phase is basified with sodium hydroxide to pH 10 and then extracted with 300 ml of EtOAc. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure to give 2.7 g of 4-methyl-7-methoxyquinoline, the characteristics of which product are as follows:

reactant | triphenylphosphine | 4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | 5.3 g | [Cl-].[Li+]
reactant | tetramethyltin | 14 ml | C[Sn](C)(C)C
reactant | 4-bromo-7-methoxyquinoline | 6 g | BrC1=CC=NC2=CC(=CC=C12)OC | C10H8BrNO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 300 ml | O | H2O
product | 4-methyl-7-methoxyquinoline | 2.7 g | CC1=CC=NC2=CC(=CC=C12)OC | C11H11NO
